US06884801B1
1-Methyl-2-(trimethylstannyl)-1H-pyrrole (3.94 g, 14.7 mmol) and 1-bromo-2-nitrobenzene (3.22 g, 15.9 mmol, 1.08 eq) were coupled as in Example 75 to give 2.04 g of 1-methyl-2-(2-nitrophenyl)-1H-pyrrole, which was reduced as in Example 64 to give 1.53 g of 2-(1-methyl-1H-pyrrol-2-yl)aniline.

reactant | 1-Methyl-2-(trimethylstannyl)-1H-pyrrole | 14.7 mmol, 3.94 g | CN1C(=CC=C1)[Sn](C)(C)C
reactant | 1-bromo-2-nitrobenzene | 15.9 mmol, 3.22 g, 1.08 eq | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
product | 1-methyl-2-(2-nitrophenyl)-1H-pyrrole | 2.04 g | CN1C(=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C11H10N2O2
